US05350660
A solution of p-tert-butoxystyrene (15.8 g, 0.09 mole) and methyl methacrylate (1.0 g, 0.09 mole) in toluene containing a catalytic amount of 2,2'-azobis(2,4-dimethylvaleronitrile) was heated at 80° C. for 8 hours under nitrogen. After cooling, the reaction mixture was poured into petroleum ether and polymer was precipitated. The polymer was filtered by suction, washed with petroleum ether and dried in vacuo to give 10.9 g of poly(p-tertbutoxystyrene-methyl methacrylate) as a white powder.

reactant | p-tert-butoxystyrene | 0.09 mole, 15.8 g | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | methyl methacrylate | 0.09 mole, 1.0 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | 2,2'-azobis(2,4-dimethylvaleronitrile) | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | p-tertbutoxystyrene methyl methacrylate | C(C)(C)(C)OC1=CC=C(C=C)C=C1.C(C(=C)C)(=O)OC | InChI=1S/C12H16O.C5H8O2/c1-5-10-6-8-11(9-7-10)13-12(2,3)4;1-4(2)5(6)7-3/h5-9H,1H2,2-4H3;1H2,2-3H3
